US07179819B2
To a stirred solution of ethyl 3-amino-2-methoxy-6-pyridylacetate (1.61 g, 7.66 mmol) in THF (10 ml) were added 2-bromophenylisocyanate (948 ml, 7.66 mmol) and Et3 N (107 ml, 0.776 mmol). After stirring overnight, the mixture was poured into H2O (100 ml) and extracted with CHCl3-MeOH (4:1, 2×200 ml). The combined extracts were dried over MgSO4 and evaporated. The residue was recrystallized from CHCl3-MeOH-hexane to give ethyl 3-[N′-(2-bromophenyl)ureido]-2-methoxy-6-pyridylacetate (2.91 g, 93%) as a colorless crystalline powder. mp 160–163° C.; 1H-NMR (DMSO-d6) δ 1.19 (dt, J=7.1, 0.7 Hz, 3 H), 3.69 (s, 2 H), 3.95 (s, 3 H), 4.07–4.13 (m, 2 H), 6.90 (d, J=7.8 Hz, 1 H), 6.99 (t, J=7.8 Hz, 1 H), 7.33 (t, J=7.8 Hz, 1 H), 7.61 (d, J=7.8 Hz, 1 H), 7.96 (dd, J=7.8, 1.5 Hz, 1 H), 8.31 (d, J=7.8 Hz, 1 H), 8.82 (s, 1 H), 9.12 (s, 1 H); MS (FAB) m/z 408 (M+), 410 (M++2); Anal. Calcd for C17H18BrN3O4.0.25 H2O: C, 49.47; H, 4.52; 9.96. Found: C, 49.34; H, 4.48; N, 9.96.

reactant | ethyl 3-amino-2-methoxy-6-pyridylacetate | 7.66 mmol, 1.61 g | NC=1C(=NC(=CC1)CC(=O)OCC)OC | C10H14N2O3
reactant | 2-bromophenylisocyanate | 7.66 mmol, 948 ml | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
reactant | H2O | 100 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ethyl 3-[N′-(2-bromophenyl)ureido]-2-methoxy-6-pyridylacetate | 2.91 g, 93% | BrC1=C(C=CC=C1)NC(NC=1C(=NC(=CC1)CC(=O)OCC)OC)=O | C17H18BrN3O4
